US06417194B1
(a) 2-Benzyloxy-3,4-dimethoxybenzaldehyde
Benzyl bromide (12.9 ml, 0.108 mol) was added to a suspension of 2-hydroxy-3,4-dimethoxybenzaldehyde (19 g, 0.104 mol) and potassium carbonate (14.41 g, 0.104 mol) in acetone (200 ml) and the reaction stirred at reflux for 3 hours. On cooling, the mixture was concentrated under reduced pressure and the residue partitioned between water (150 ml) and dichloromethane (150 ml). The organic layer was filtered through silica, washing through with hexane and then ethyl acetate. Evaporation of the filtrate under reduced pressure gave a yellow gum. The crude product was purified on silica gel eluting with ethyl acetate:hexane (30:70 v/v) to give the subtitle compound (25.9 g, 88%). Rf 0.82 (ethyl acetate:hexane 1:1, v/v). MS m/z 273 (MH)+.

reactant | Benzyl bromide | 0.108 mol, 12.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-hydroxy-3,4-dimethoxybenzaldehyde | 0.104 mol, 19 g | OC1=C(C=O)C=CC(=C1OC)OC | C9H10O4
reactant | potassium carbonate | 0.104 mol, 14.41 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 2-Benzyloxy-3,4-dimethoxybenzaldehyde | 25.9 g, 88% | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1OC)OC | C16H16O4
